US06528510B1
3-(2-tert-Butyl-4-hydroxymethyl-5-methyl-phenylsulfanyl)-4-hydroxy-6-isopropyl-6-(2-thiophen-2-yl-ethyl)-5,6-dihydro-pyran-2-one
The title compound was prepared as described in General Method 16a using 4-hydroxy-6-isopropyl-6-(2-thiophen-2-yl-ethyl)-5,6-dihydro-pyran-2-one (Example E-21; 1 mmol), toluene-4-thiosulfonic acid S-(2-tert-butyl-4-hydroxymethyl-5-methyl-phenyl)ester (Example BB-2; 1.2 mmol), potassium carbonate (4 mmol) in DMF (3 mL). The product was isolated via flash chromatography over silica gel using 10:90 EtOAc:CH2Cl2, mp 73-77° C. MS (APCI): 475 (M+H).

reactant | 4-hydroxy-6-isopropyl-6-(2-thiophen-2-yl-ethyl)-5,6-dihydro-pyran-2-one | 1 mmol | OC1=CC(OC(C1)(CCC=1SC=CC1)C(C)C)=O | C14H18O3S
reactant | toluene-4-thiosulfonic acid S-(2-tert-butyl-4-hydroxymethyl-5-methyl-phenyl)ester | 1.2 mmol | C(C)(C)(C)C1=C(C=C(C(=C1)CO)C)SS(=O)(=O)C1=CC=C(C=C1)C | C19H24O3S2
reactant | potassium carbonate | 4 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-(2-tert-Butyl-4-hydroxymethyl-5-methyl-phenylsulfanyl)-4-hydroxy-6-isopropyl-6-(2-thiophen-2-yl-ethyl)-5,6-dihydro-pyran-2-one | C(C)(C)(C)C1=C(C=C(C(=C1)CO)C)SC=1C(OC(CC1O)(CCC=1SC=CC1)C(C)C)=O | C26H34O4S2
